US09278085B2
(E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol in pyridine (2 mL) was treated with Ac2O (2 mL) at 0° C. and let stir overnight. The reaction was quenched with H2O (10 mL) followed by addition of EtOAc (10 mL) and separated. The aqueous phase was extracted with EtOAc (3×10 mL) and the combined organics washed with brine (15 mL), dried over anhydrous Na2SO4 and concentrated to a yellow oil. Flash chromatography on silica yielded 77.9 mg (62.3%) of (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl acetate as a clear oil.

reactant | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCCO)\C | C19H30O3
reactant | Ac2O | 2 mL | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl acetate | 77.9 mg, 62.3% | C(C)(=O)OCCCC\C(=C\CC1=C(C(=C(C(=C1C)OC)C)C)OC)\C | C21H32O4
